US07045516B1
(b) 2-Acetamino-4-chloro-6-nitrophenol
Under ice cooling, a solution of 2-acetamino-4-chlorophenol (1.0 g, 5.4 mmol) in acetic anhydride (90 mL) was added with 70% nitric acid (0.38 mL, d=1.42) with stirring. After stirring for 2 hours, the mixture was added with water (100 mL), and the mixture was further stirred for 1 hour. The mixture was extracted by adding diethyl ether, and washed twice with water. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resultant mixture was purified by silica gel column chromatography (ethyl acetate:n-hexane=5:1 v/v) to obtain the title compound (0.38 g, 31%).

reactant | 2-acetamino-4-chlorophenol | 5.4 mmol, 1.0 g | N(C(=O)C)C1=C(C=CC(=C1)Cl)O | C8H8ClNO2
reactant | nitric acid | 0.38 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | 100 mL | O | H2O
solvent | acetic anhydride | 90 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetamino-4-chloro-6-nitrophenol | 0.38 g, 31% | N(C(=O)C)C1=C(C(=CC(=C1)Cl)[N+](=O)[O-])O | C8H7ClN2O4
